US04442126
(f) 2-Propylamino-5-formylamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide
1.9 g of 2-propylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide are introduced into a mixture of 6 ml of formic acid and 0.67 ml of acetic anhydride, kept in an ice-bath for 1/2 hour. The mixture is stirred for 3 hours at ambient temperature and then poured into diethyl ether. The precipitate which has formed is filtered off and washed with hot isopropyl alcohol. After drying, 1.7 g of the final compound are obtained, which melts at 210° C.

reactant | 2-propylamino-5-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | 1.9 g | Br.C(CC)NC1CC2=CC=C(C(=C2CC1)N)O
reactant | formic acid | 6 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 0.67 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Propylamino-5-formylamino-6-hydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | 1.7 g | Br.C(CC)NC1CC2=CC=C(C(=C2CC1)NC=O)O | InChI=1S/C14H20N2O2.BrH/c1-2-7-15-11-4-5-12-10(8-11)3-6-13(18)14(12)16-9-17;/h3,6,9,11,15,18H,2,4-5,7-8H2,1H3,(H,16,17);1H
